US07947712B2
N-[(5-amino-8-hydroxyquinolin-7-yl)(phenyl)methyl]-2-phenoxyacetamide (150 mg, 0.37 mmol), 2,5-dimethoxydihydrofuran (50 mg, 0.37 mmol) in acetic acid (1 ml) were heated at 65 C for 40 min. The reaction mixture was concentrated, dissolved in ethylacetate, washed with aq. Sodium bicarbonate and dried over sodium sulfate. The solvent was removed in vacuo to afford N-[[8-hydroxy-5-(1H-pyrrol-1-yl)quinolin-7-yl](phenyl)methyl]-2-phenoxyacetamide as a tan solid.

reactant | N-[(5-amino-8-hydroxyquinolin-7-yl)(phenyl)methyl]-2-phenoxyacetamide | 0.37 mmol, 150 mg | NC1=C2C=CC=NC2=C(C(=C1)C(NC(COC1=CC=CC=C1)=O)C1=CC=CC=C1)O | C24H21N3O3
reactant | 2,5-dimethoxydihydrofuran | 0.37 mmol, 50 mg | COC1OC(=CC1)OC | C6H10O3
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | N-[[8-hydroxy-5-(1H-pyrrol-1-yl)quinolin-7-yl](phenyl)methyl]-2-phenoxyacetamide | OC=1C(=CC(=C2C=CC=NC12)N1C=CC=C1)C(NC(COC1=CC=CC=C1)=O)C1=CC=CC=C1 | C28H23N3O3
